US08058300B2
Step 2: 1-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-ethanol:
1-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-ethanone (3.67 mmol) in MeOH (5 mL) was treated with sodium borohydride (0.139 g, 3.67 mmol). The reaction was stirred for 20 minutes, and then standard work-up provided the title compound.

reactant | 1-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-ethanone | 3.67 mmol | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C(C)=O)(C)C | C14H22O2Si
reactant | sodium borohydride | 3.67 mmol, 0.139 g | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 1-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-ethanol | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C(C)O)(C)C | C14H24O2Si
